US06265575B1
Part A. 2-(4-Methoxyphenyl)benzo[b]thiophene
The title compound was prepared in 91% yield from benzo[b]thiophene-2-boronic acid and 4-bromoanisole by essentially following the procedure detailed Example 1, Part B.

reactant | benzo[b]thiophene-2-boronic acid | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 4-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
product | 2-(4-Methoxyphenyl)benzo[b]thiophene | 91% yield | COC1=CC=C(C=C1)C1=CC2=C(S1)C=CC=C2 | C15H12OS
